US08247430B2
3-Methyl-but-2-enoic acid (6-bromo-pyridin-2-yl)-amide
To a solution of 2-amino-6-bromopyridine (3.015 g, 0.017 mol) and Et3N (2.40 mL, 0.017 mol) in CH2Cl2 (20.0 mL), was added 3,3-dimethylacryloylchloride (1.96 mL, 0.017 mol) under N2 at 0° C. The mixture was slowly warmed to RT and stirred for 12 h. The reaction was quenched by the addition of H2O (20.0 mL), the organic layer was separated, dried over Na2SO4 and evaporated to dryness to yield crude compound which was used without purification.

reactant | 2-amino-6-bromopyridine | 0.017 mol, 3.015 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | Et3N | 0.017 mol, 2.40 mL | CCN(CC)CC | C6H15N
reactant | 3,3-dimethylacryloylchloride | 0.017 mol, 1.96 mL | CC(=CC(=O)Cl)C | C5H7ClO
solvent | CH2Cl2 | 20.0 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-but-2-enoic acid (6-bromo-pyridin-2-yl)-amide | BrC1=CC=CC(=N1)NC(C=C(C)C)=O | C10H11BrN2O
